US07601843B2
4-[2-[1-[2-[4-(p-Toluidino)piperidin-1-yl]ethyl]cyclohexyl]ethyl]morpholine
After adding sodium triacetoxyborohydride (579 mg, 2.73 mmol) to a solution of 4-[2-[1-(formylmethyl)cyclohexyl]ethyl]morpholine (625 mg, ca. 1.82 mmol), 4-(p-toluidino)piperidine (519 mg, 2.73 mmol) and acetic acid (0.21 mL, 3.64 mmol) in 1,2-dichloroethane (10 mL), the mixture was stirred for 3 hours. Saturated aqueous sodium hydrogencarbonate was added to the reaction mixture, and extraction was performed with chloroform. The organic layer was washed with saturated brine and dried (anhydrous sodium sulfate), and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (30 g Merck Art 9385, chloroform:methanol=1:0-10:1) to obtain the title compound as a colorless oil (346 mg) (48% yield).

reactant | sodium triacetoxyborohydride | 2.73 mmol, 579 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 4-[2-[1-(formylmethyl)cyclohexyl]ethyl]morpholine | ca. 1.82 mmol, 625 mg | C(=O)CC1(CCCCC1)CCN1CCOCC1 | C14H25NO2
reactant | 4-(p-toluidino)piperidine | 2.73 mmol, 519 mg | C1(=CC=C(C=C1)NC1CCNCC1)C | C12H18N2
reactant | acetic acid | 3.64 mmol, 0.21 mL | C(C)(=O)O | C2H4O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-[2-[1-[2-[4-(p-Toluidino)piperidin-1-yl]ethyl]cyclohexyl]ethyl]morpholine | 346 mg, 48% yield | C1(=CC=C(C=C1)NC1CCN(CC1)CCC1(CCCCC1)CCN1CCOCC1)C | C26H43N3O
